* Wilson current mirror
VCC VCC 0 12
IREF VCC X {Iset}
Q1 BASE BASE 0 0 Q_NPN
Q2 X BASE 0 0 Q_NPN
Q3 OUT X BASE 0 Q_NPN
VTEST OUT 0 5
.dc VTEST 0 10 0.05
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Iset list 250u 1m 2m
.model Q_NPN NPN(Is=1e-14 Bf=150 Vaf=100 Cje=10p Cjc=4p Tf=300p)
.save V(BASE) V(OUT) V(VCC) V(X) I(VCC) I(IREF) Ic(Q1) Ib(Q1) Ic(Q2) Ib(Q2) Ic(Q3) Ib(Q3) I(VTEST)
.end
