* Zener shunt regulator
VIN IN 0 12
RS IN OUT 330
DZ 0 OUT D_ZENER
RL OUT 0 {Load}
.dc VIN 0 15 0.05
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Load list 1k 2.2k 10k
.model D_ZENER D(Is=2n N=1.7 Rs=2 BV=5.1 Ibv=1m)
.save V(IN) V(OUT) I(VIN) I(RS) I(DZ) I(RL)
.end
